US07259266B2
Step 1. Preparation of ethyl 8-methoxy-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-(trifluoromethyl)-2H-chromene-3-carboxylate
The tricyclohexylphosphine (0.01 g, 0.04 mmole) and Pd (dba) (0.01 g, 0.02 mmole) suspended in anhydrous dioxane (3 mL) was stirred for 15 minutes resulting in a red colored solution. Ethyl 6-bromo-8-methoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate prepared as in Example 605o, Step 2 (0.2 g, 0.52 mmole), potassium acetate (0.78 g, 0.78 mmole), and bis (pinacolato)diboron (0.15 g, 0.57 mmole) was added and the resulting mixture was heated to 80° C. (oil bath) for 18 hours. The contents were poured into water (10 ml) and extracted with EtOAc (2×20 mL). The combined extracts were washed with brine (20 mL), dried over MgSO4, filtered and concentrated in vacuo to give a dark green oil (0.21 g, 95%). No further purification was performed. GCMS m/z 428.0 (M+). LCMS m/z 429.0 (M+H).

reactant | Ethyl 6-bromo-8-methoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate | BrC=1C=C2C=C(C(OC2=C(C1)OC)C(F)(F)F)C(=O)OCC | C14H12BrF3O4
reactant | potassium acetate | 0.78 mmole, 0.78 g | C(C)(=O)[O-].[K+]
reactant | bis (pinacolato)diboron | 0.57 mmole, 0.15 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | water | 10 ml | O | H2O
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd | 0.02 mmole, 0.01 g | [Pd] | Pd
catalyst | tricyclohexylphosphine | 0.04 mmole, 0.01 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
product | ethyl 8-methoxy-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.21 g, 95% | COC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)B1OC(C(O1)(C)C)(C)C | C20H24BF3O6
